US04472310
A solution of 95 g of 3β-hydroxy-15β,16β-methylene-5-androsten-17-one in 190 ml of pyridine was combined with 95 ml of acetic anhydride and stirred for 1.5 hours at 95° C. The precipitate obtained after pouring the mixture into ice water was filtered off, washed thoroughly with water, and dried, thus obtaining 107 g of 3β-acetoxy-15β,16β-methylene-5-androsten-17-one as a crude product. A sample extracted by boiling with diisopropyl ether melted at 140.5°-141° C.

reactant | 3β-hydroxy-15β,16β-methylene-5-androsten-17-one | 95 g | O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5 | C20H28O2
reactant | acetic anhydride | 95 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 190 ml | N1=CC=CC=C1 | C5H5N
product | 3β-acetoxy-15β,16β-methylene-5-androsten-17-one | 107 g | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5 | C22H30O3
